US05665718
8.41 g (48 mmol) of BOC-glycine were dissolved in 30 ml of N,N-dimethylformamide and treated portionwise with 7.8 g (48 mmol) of 1,1'-carbonyldiimidazole. After completion of the CO2 evolution the solution was stirred at 45° for 10'. Then, 12.05 g (40 mmol) of (S)-7-fluoro-12,12a-dihydro-9-oxo-9H,11H-azeto-[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamidoxime were added and the mixture was stirred at 90° overnight. By evaporation of the solution, chromatography of the residue on 550 g of silica gel while eluting with methylene chloride/methanol 19/1 and recrystallization from ethyl acetate there were obtained 10.78 g (61%) of (S)-1-[5-(BOC-aminomethyl)-1,2,4-oxadiazol-3-yl]-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one of m.p. 147°-150°.

reactant | BOC-glycine | 48 mmol, 8.41 g | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | 1,1'-carbonyldiimidazole | 48 mmol, 7.8 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | CO2 | C(=O)=O | CO2
reactant | (S)-7-fluoro-12,12a-dihydro-9-oxo-9H,11H-azeto-[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamidoxime | 40 mmol, 12.05 g | FC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(N)=NO)CC3)=O)C1 | C14H12FN5O2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | (S)-1-[5-(BOC-aminomethyl)-1,2,4-oxadiazol-3-yl]-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 10.78 g, 61% | C(=O)(OC(C)(C)C)C(C1=NC(=NO1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC(=C3)F)=O)CC1)N | C21H21FN6O4
